US08648081B2
B) Synthesis of 1-chloro-1-oxopropan-2-yl acetate
Stir a mixture of 2-acetoxy-propionic acid (550 g, 4.16 mol) in oxalyl chloride (500 mL) at room temperature for overnight. After removal of oxalyl chloride under vacuum, ˜700 g crude product is obtained (quantitative yield crude), which is used directly in the next step. 1H NMR (CDCl3, 400 MHz): δ 5.16 (m, 1H), 2.13 (s, 3H), 1.58 (d, J=7.2, 3H).

reactant | 2-acetoxy-propionic acid | 4.16 mol, 550 g | C(C)(=O)OC(C(=O)O)C | C5H8O4
reactant | oxalyl chloride | 500 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 1-chloro-1-oxopropan-2-yl acetate | ˜700 g, quantitative yield | C(C)(=O)OC(C(=O)Cl)C | C5H7ClO3
